US05079260
L-leucine methyl ester (NPC 15326)
A suspension of L-leucine methyl ester hydrochloride (3.0 g, 16.5 mmol) and sodium bicarbonate (large excess) in 30 mL of dioxane was charged with 9-fluorenemethoxycarbonyl-O-succinimide (2.5 g, 7.43 mmol) at room temperature. The reaction was monitored via TLC (silica, 25% EtOAc in hexane). After two hours 30 ml of methylene chloride was introduced and the reaction was stirred at room temperature for 48 hours. The solution was diluted with EtOAc, washed with water (×2), 3% aqueous HCl, water (×3) and brine. The solution was dried over magnesium sulfate and evaporated. The resulting oil was crystalized from hexane:ether to yield 1.9 g (62%) of colorless solid.

reactant | L-leucine methyl ester hydrochloride | 16.5 mmol, 3.0 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | L-leucine methyl ester | 1.9 g, 62% | COC([C@@H](N)CC(C)C)=O | C7H15NO2
